US07282588B2
Preparation of 4-[3-(4-N-ethylcarbamylaminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(N-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine
Following the procedure described in Example 48 using 4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(N-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine and ethyl isocyanate provided the title compound. ESMS (M+H)+: 550.6

reactant | 4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(N-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CN2CCOCC2)CC | C29H30N6O
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 4-[3-(4-N-ethylcarbamylaminophenyl)-1-ethyl-1H-pyrazol-4-yl]-2-[3-(N-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | CCNC(=O)NC1=CC=C(C=C1)C2=NN(C=C2C3=C4C=C(NC4=NC=C3)C5=CC(=CC=C5)CN6CCOCC6)CC | C32H35N7O2
